US05318966
3.75 g (0.01135 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indole were dissolved in 0.13 l of 48% aqueous HBr and boiled under reflux for 5 hours. The mixture was poured into an ice-cold aqueous solution of 46.3 g (1.16 mol) of NaOH. After the addition of solid NaHCO3 the mixture was extracted three times with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered and concentrated. By chromatography over silica gel with methanol there were obtained 3.20 g (89%) of oily rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-ol.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indole | 0.01135 mol, 3.75 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCN2CCOCC2 | C20H30N2O2
reactant | NaOH | 1.16 mol, 46.3 g | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HBr | 0.13 l | Br | BrH
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-ol | 3.20 g, 89% | N1(CCOCC1)CCCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C19H28N2O2
